US08053431B2
To a solution of 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid (0.65 g, 0.0028 mol) in dry DMF (5.0 mL) was added with stirring HOBt (0.46 g, 0.0034 mol), DIPEA (2.5 mL, 0.014 mol), 4-aminoadamantan-1-ol (0.685 g, 0.0034 mol) at 0° C. To the resulting mixture was added EDCl (0.65 g, 0.0034 mol) and stirred for 15 h at ambient temperature. The reaction mixture was diluted with ice water (100 mL) and extracted with EtOAc (3×50 mL) and the combined organic phases were washed with water, dried (Na2SO4) and the solvent evaporated affording (1.0 g, 93.5%) of 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid (5-hydroxyadamantan-2-yl)-amide. MS-ESI m/z 381 (M+1).

reactant | 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid | 0.0028 mol, 0.65 g | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)O | C10H9N5O2
reactant | HOBt | 0.0034 mol, 0.46 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.014 mol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-aminoadamantan-1-ol | 0.0034 mol, 0.685 g | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
reactant | EDCl | 0.0034 mol, 0.65 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid (5-hydroxyadamantan-2-yl)-amide | 1.0 g, 93.5% | OC12CC3C(C(CC(C1)C3)C2)NC(=O)C2=CC3=C(N(C=N3)CCN=[N+]=[N-])C=C2 | C20H24N6O2
